US06403610B1
4.72 cm3 of thiophene-2-thiol were run, with stirring at a temperature in the region of 20° C., into a stirred solution of 8.25 cm3 of 20% aqueous sodium hydroxide solution and 14.6 cm3 of 1-bromo-2-chloroethane. The mixture was subsequently stirred for 6 hours at a temperature in the region of 20° C. 40 cm3 of ethyl ether were subsequently added and the organic phase was washed with water and then dried over magnesium sulfate. After filtering through paper, the organic solution was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography, under a pressure reduced to 50 kPa of nitrogen, on a column of silica gel (particle size 20-45 μm; diameter 4.5 cm; weight of silica 250 g), elution was carried out with a cyclohexane/ethyl acetate (95/5 by volume) mixture. 7.27 g of 2-(2-chloroethylthio)thiophene were obtained in the form of a mobile oil with a yellow color.

reactant | thiophene-2-thiol | 4.72 cm3 | S1C(=CC=C1)S | C4H4S2
reactant | sodium hydroxide | 8.25 cm3 | [OH-].[Na+]
reactant | 1-bromo-2-chloroethane | 14.6 cm3 | BrCCCl | C2H4BrCl
solvent | ethyl ether | 40 cm3 | C(C)OCC | C4H10O
product | 2-(2-chloroethylthio)thiophene | 7.27 g | ClCCSC=1SC=CC1 | C6H7ClS2
